US06911463B2
To a solution of [2-(7-hydroxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester (104 mg, 0.342 mmol) in dimethylformamide (10 mL) is added sodium hydride (10 mg, 0.410 mmol). The mixture is stirred at ambient temperature for 30 minutes under nitrogen. 6-Chloro-nicotinic acid methyl ester (99 mg, 0.581 mmol) is added and the mixture is heated in an oil bath to eighty degrees Celsius for 15 hours, under nitrogen. The mixture is then heated an additional 5 hours at eighty-five degrees Celsius. Water (100 ml) is added to quench the reaction and the mixture is extracted three times with 50 mL of ethyl acetate. The organic layers are combined and washed twice with 50 mL of 1.00 N sodium hydroxide. The organic layer is dried with sodium sulfate, filtered and the solvent evaporated. The residue is dissolved in dichloromethane and purified using silica gel chromatography (6% 2M ammonia in methanol, 94% dichloromethane used as mobile phase) to give 87 mg (58%) of 6-[3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yloxy]-nicotinic acid methyl ester. FDMS m/e=440 (M++1).

reactant | [2-(7-hydroxy-1H-indol-3-yl)-1,1-dimethyl-ethyl]-carbamic acid tert-butyl ester | 0.342 mmol, 104 mg | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)O)(C)C)=O | C17H24N2O3
reactant | sodium hydride | 0.410 mmol, 10 mg | [H-].[Na+]
reactant | 6-Chloro-nicotinic acid methyl ester | 0.581 mmol, 99 mg | COC(C1=CN=C(C=C1)Cl)=O | C7H6ClNO2
reactant | Water | 100 ml | O | H2O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-[3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yloxy]-nicotinic acid methyl ester | 87 mg, 58% | COC(C1=CN=C(C=C1)OC=1C=CC=C2C(=CNC12)CC(C)(C)NC(=O)OC(C)(C)C)=O | C24H29N3O5
